US09163021B2
N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetamide
To a solution of (5-amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone (Preparation 29, 35 mg, 79.1 μmol), (5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (22 mg, 106.9 μmol) and DIPEA (48 μL, 276.8 μmol) in THF (3 mL), T3P (166 μL, 276.8 μmol) was added and the mixture stirred at 25° C. for 18 hours. The reaction was evaporated under reduced pressure, the residue partitioned between water and ethyl acetate, the organic extracts washed with saturated sodium bicarbonate solution, dried over sodium sulphate, evaporated in vacuo and triturated with pentane-ether to afford the title compound as an off white solid (70%, 37 mg).

reactant | (5-amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone | 79.1 μmol, 35 mg | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H31FN4O2Si
reactant | (5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 106.9 μmol, 22 mg | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
reactant | DIPEA | 276.8 μmol, 48 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | T3P | 276.8 μmol, 166 μL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetamide | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)C(=O)C=2C=C(C=NC2)NC(CN2N=C(C=C2C)C(F)(F)F)=O)(C)C | C30H36F4N6O3Si
